************************************************************************
*
* Copyright 2023 IHP PDK Authors
* 
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
* 
*    https://www.apache.org/licenses/LICENSE-2.0
* 
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
************************************************************************

* Library name: sg13g2_stdcell
* Cell name: sg13g2_buf_2
* View name: schematic
.subckt sg13g2_buf_2 X A VDD VSS
XN0 net1 A VSS VSS sg13_lv_nmos w=640.00n l=130.00n ng=1 ad=2.176e-13 as=2.176e-13 pd=1.96e-06 ps=1.96e-06 m=1
XN1 X net1 VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2 ad=2.812e-13 as=5.032e-13 pd=2.24e-06 ps=4.32e-06 m=1
XP1 X net1 VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2 ad=4.256e-13 as=7.616e-13 pd=3e-06 ps=5.84e-06 m=1
XP0 net1 A VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1 ad=3.4e-13 as=3.4e-13 pd=2.68e-06 ps=2.68e-06 m=1
.ends
* End of subcircuit definition.
