************************************************************************
*
* Copyright 2023 IHP PDK Authors
* 
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
* 
*    https://www.apache.org/licenses/LICENSE-2.0
* 
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
************************************************************************

* Library name: sg13g2_stdcell
* Cell name: sg13g2_dfrbpq_1
* View name: schematic
.subckt sg13g2_dfrbpq_1 Q CLK D RESET_B VDD VSS
XN11 net12 net2 VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XN10 net5 clkneg net12 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XN12 net2 net5 net11 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XN13 net11 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XN0 Db D net10 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XN1 net10 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XN4 Db clkneg net6 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XN5 net6 clkpos net9 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XN6 net9 net4 net8 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XN7 net8 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XN8 net4 net6 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 ad=2.516e-13 as=2.516e-13 pd=2.16e-06 ps=2.16e-06 m=1
XN2 clkneg CLK VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 ad=2.516e-13 as=2.516e-13 pd=2.16e-06 ps=2.16e-06 m=1
XN9 net4 clkpos net5 VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 ad=2.516e-13 as=2.516e-13 pd=2.16e-06 ps=2.16e-06 m=1
XN3 clkpos clkneg VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 ad=2.516e-13 as=2.516e-13 pd=2.16e-06 ps=2.16e-06 m=1
XN15 Q net1 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 ad=2.516e-13 as=2.516e-13 pd=2.16e-06 ps=2.16e-06 m=1
XN14 net1 net5 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 ad=2.516e-13 as=2.516e-13 pd=2.16e-06 ps=2.16e-06 m=1
XP11 net5 clkpos net3 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XP12 net2 net5 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XP13 net2 RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XP4 Db clkpos net6 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XP0 Db RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XP1 Db D VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XP5 net7 net4 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XP6 net6 clkneg net7 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XP7 net6 RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XP2 clkneg CLK VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 ad=3.808e-13 as=3.808e-13 pd=2.92e-06 ps=2.92e-06 m=1
XP3 clkpos clkneg VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 ad=3.808e-13 as=3.808e-13 pd=2.92e-06 ps=2.92e-06 m=1
XP8 net4 net6 VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1 ad=3.4e-13 as=3.4e-13 pd=2.68e-06 ps=2.68e-06 m=1
XP9 net4 clkneg net5 VDD sg13_lv_pmos w=1.000u l=130.00n ng=1 ad=3.4e-13 as=3.4e-13 pd=2.68e-06 ps=2.68e-06 m=1
XP15 Q net1 VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 ad=3.808e-13 as=3.808e-13 pd=2.92e-06 ps=2.92e-06 m=1
XP10 net3 net2 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XP14 net1 net5 VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 ad=3.808e-13 as=3.808e-13 pd=2.92e-06 ps=2.92e-06 m=1
.ends
* End of subcircuit definition.
