************************************************************************
*
* Copyright 2023 IHP PDK Authors
* 
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
* 
*    https://www.apache.org/licenses/LICENSE-2.0
* 
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
************************************************************************

* Library name: sg13g2_stdcell
* Cell name: sg13g2_dlhr_1
* View name: schematic
.subckt sg13g2_dlhr_1 Q Q_N D GATE RESET_B VDD VSS
XP8 qint_b RESET_B VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 ad=3.808e-13 as=3.808e-13 pd=2.92e-06 ps=2.92e-06 m=1
XP9 Q qint_b VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 ad=3.808e-13 as=3.808e-13 pd=2.92e-06 ps=2.92e-06 m=1
XP6 qint GATE_BB net11 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XP5 net11 qint_b VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XP4 qint GATE_B net2 VDD sg13_lv_pmos w=1.000u l=130.00n ng=1 ad=3.4e-13 as=3.4e-13 pd=2.68e-06 ps=2.68e-06 m=1
XP3 net2 Db VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1 ad=3.4e-13 as=3.4e-13 pd=2.68e-06 ps=2.68e-06 m=1
XP2 Db D VDD VDD sg13_lv_pmos w=840.00n l=130.00n ng=1 ad=2.856e-13 as=2.856e-13 pd=2.36e-06 ps=2.36e-06 m=1
XP0 GATE_B GATE VDD VDD sg13_lv_pmos w=840.00n l=130.00n ng=1 ad=2.856e-13 as=2.856e-13 pd=2.36e-06 ps=2.36e-06 m=1
XP11 Q_N qintn_b VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 ad=3.808e-13 as=3.808e-13 pd=2.92e-06 ps=2.92e-06 m=1
XP7 qint_b qint VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 ad=3.808e-13 as=3.808e-13 pd=2.92e-06 ps=2.92e-06 m=1
XP1 GATE_BB GATE_B VDD VDD sg13_lv_pmos w=840.00n l=130.00n ng=1 ad=2.856e-13 as=2.856e-13 pd=2.36e-06 ps=2.36e-06 m=1
XP10 qintn_b qint_b VDD VDD sg13_lv_pmos w=840.00n l=130.00n ng=1 ad=2.856e-13 as=2.856e-13 pd=2.36e-06 ps=2.36e-06 m=1
XN7 qint_b qint net9 VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 ad=2.516e-13 as=2.516e-13 pd=2.16e-06 ps=2.16e-06 m=1
XN8 net9 RESET_B VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 ad=2.516e-13 as=2.516e-13 pd=2.16e-06 ps=2.16e-06 m=1
XN5 qint GATE_B net7 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XN6 net7 qint_b VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 ad=1.428e-13 as=1.428e-13 pd=1.52e-06 ps=1.52e-06 m=1
XN9 Q qint_b VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 ad=2.516e-13 as=2.516e-13 pd=2.16e-06 ps=2.16e-06 m=1
XN3 qint GATE_BB net1 VSS sg13_lv_nmos w=640.00n l=130.00n ng=1 ad=2.176e-13 as=2.176e-13 pd=1.96e-06 ps=1.96e-06 m=1
XN4 net1 Db VSS VSS sg13_lv_nmos w=640.00n l=130.00n ng=1 ad=2.176e-13 as=2.176e-13 pd=1.96e-06 ps=1.96e-06 m=1
XN2 Db D VSS VSS sg13_lv_nmos w=550.00n l=130.00n ng=1 ad=1.87e-13 as=1.87e-13 pd=1.78e-06 ps=1.78e-06 m=1
XN0 GATE_B GATE VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 ad=2.516e-13 as=2.516e-13 pd=2.16e-06 ps=2.16e-06 m=1
XN11 Q_N qintn_b VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 ad=2.516e-13 as=2.516e-13 pd=2.16e-06 ps=2.16e-06 m=1
XN1 GATE_BB GATE_B VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 ad=2.516e-13 as=2.516e-13 pd=2.16e-06 ps=2.16e-06 m=1
XN10 qintn_b qint_b VSS VSS sg13_lv_nmos w=550.00n l=130.00n ng=1 ad=1.87e-13 as=1.87e-13 pd=1.78e-06 ps=1.78e-06 m=1
.ends
* End of subcircuit definition.
